* por_output_chain -- post-layout netlist
* GENERATED by layout/postlayout.py -- do not edit.
*
* FROM THE LAYOUT: every device and its dimensions, the whole
*   topology, and first-order interconnect R/C on 18/30 nets
*   (sigma 828.6 fF). klt 0.2.0, deck gf180mcu,
*   GDS sha256 475c7feaa83591e1...
* Net names are the schematic's, restored through klt lvs's own net
*   correspondence -- match, 30/30 nets, every one paired.
*
* NOT FROM THE LAYOUT -- see layout/postlayout/AUDIT.md:
*   12 body/plate net(s) tied to the net the schematic puts
*   them on. The extraction deck's connectivity stack does not reach
*   an Nwell, a substrate ring, a bipolar base well or a MiM plate,
*   so they extract isolated and would otherwise float.
*   No ideal device: every golden device is drawn.
*
.subckt por_output_chain VDD VSS IBIAS POR_RAW RESETn

* --- drawn devices ---
X1 PDN IBIAS VSS VSS nfet_03v3 L=25u W=0.5u nf=1 ad=0.4p as=0.4p pd=2.6u ps=2.6u m=1
X2 PGDGB PGDG VSS VSS nfet_03v3 L=2u W=0.5u nf=1 ad=0.4p as=0.4p pd=2.6u ps=2.6u m=1
X3 ND1 NDL VSS VSS nfet_03v3 L=10u W=0.5u nf=1 ad=0.4p as=0.4p pd=2.6u ps=2.6u m=1
X4 NDG POR_RAW NDGN VSS nfet_03v3 L=0.5u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X5 TIM PGDGB VSS VSS nfet_03v3 L=1u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X6 TRIP ND1 VSS VSS nfet_03v3 L=1u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X7 ND1 RESETn VSS VSS nfet_03v3 L=1u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X8 NDL NDL VSS VSS nfet_03v3 L=10u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X9 PGDG NDG VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X10 RSTB TRIP NNAND VSS nfet_03v3 L=0.5u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X11 NNAND PGDG VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X12 IBIAS IBIAS VSS VSS nfet_03v3 L=4u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X13 NDGN NDL VSS VSS nfet_03v3 L=10u W=10u nf=1 ad=8p as=8p pd=21.6u ps=21.6u m=1
X14 RESETn RSTB VSS VSS nfet_03v3 L=0.5u W=10u nf=1 ad=8p as=8p pd=21.6u ps=21.6u m=1
X15 NTS PDN VDD VDD pfet_03v3 L=10u W=0.5u nf=1 ad=0.4p as=0.4p pd=2.6u ps=2.6u m=1
X16 TRIP PDN VDD VDD pfet_03v3 L=10u W=0.5u nf=1 ad=0.4p as=0.4p pd=2.6u ps=2.6u m=1
X17 PGDG NDG VDD VDD pfet_03v3 L=2u W=0.5u nf=1 ad=0.4p as=0.4p pd=2.6u ps=2.6u m=1
X18 RSTB RESETn VDD VDD pfet_03v3 L=10u W=0.5u nf=1 ad=0.4p as=0.4p pd=2.6u ps=2.6u m=1
X19 NDG POR_RAW NDGP VDD pfet_03v3 L=0.5u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X20 RESETn RSTB VDD VDD pfet_03v3 L=1u W=1u nf=1 ad=0.8p as=0.8p pd=3.6u ps=3.6u m=1
X21 PDN PDN VDD VDD pfet_03v3 L=10u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X22 NDL PDN VDD VDD pfet_03v3 L=10u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X23 PGDGB PGDG VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X24 TIM PGDGB NTS VDD pfet_03v3 L=1u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X25 ND1 TIM VDD VDD pfet_03v3 L=1u W=2u nf=1 ad=1.6p as=1.6p pd=5.6u ps=5.6u m=1
X26 RSTB TRIP VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X27 RSTB PGDG VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad=3.2p as=3.2p pd=9.6u ps=9.6u m=1
X28 NDGP PDN VDD VDD pfet_03v3 L=10u W=10u nf=1 ad=8p as=8p pd=21.6u ps=21.6u m=1
X29 NDG VSS cap_mim_2f0_m3m4_noshield c_width=12u c_length=12u
X30 TIM VSS cap_mim_2f0_m3m4_noshield c_width=28u c_length=28u
X31 TIM VSS cap_mim_2f0_m3m4_noshield c_width=28u c_length=28u
X32 TIM VSS cap_mim_2f0_m3m4_noshield c_width=28u c_length=28u
X33 TIM VSS cap_mim_2f0_m3m4_noshield c_width=28u c_length=28u

R_10 NDGN NDGN__par 3937.0807
C_10 NDGN__par VSS 3.4262384e-14
R_11 NDG NDG__par 4070.1194
C_11 NDG__par VSS 3.8582127e-14
R_12 PGDG PGDG__par 4189.4122
C_12 PGDG__par VSS 4.2342204e-14
R_13 TIM TIM__par 4003.4777
C_13 TIM__par VSS 3.7210339e-14
R_14 TRIP TRIP__par 4060.1793
C_14 TRIP__par VSS 3.9476253e-14
R_15 NNAND NNAND__par 3939.9598
C_15 NNAND__par VSS 3.5425418e-14
R_16 NDGP NDGP__par 3936.7209
C_16 NDGP__par VSS 3.4117005e-14
R_17 RSTB RSTB__par 4076.1659
C_17 RSTB__par VSS 4.4250826e-14
R_2 PDN PDN__par 4872.473
C_2 PDN__par VSS 5.6524204e-14
R_3 NDL NDL__par 4462.4943
C_3 NDL__par VSS 4.7374149e-14
R_5 PGDGB PGDGB__par 4066.8624
C_5 PGDGB__par VSS 3.8940744e-14
R_6 ND1 ND1__par 4009.3404
C_6 ND1__par VSS 3.953615e-14
R_8 NTS NTS__par 3938.5202
C_8 NTS__par VSS 3.4843901e-14
RIBIAS IBIAS IBIAS__par 4398.6611
CIBIAS IBIAS__par VSS 4.5280553e-14
RPOR_RAW POR_RAW POR_RAW__par 4047.2842
CPOR_RAW POR_RAW__par VSS 3.435215e-14
RRESETn RESETn RESETn__par 4167.0798
CRESETn RESETn__par VSS 4.4306787e-14
RVDD VDD VDD__par 79.7582
CVDD VDD__par VSS 6.9000979e-14
RVSS VSS VSS__par 66.7327
CVSS VSS__par VSS 1.12754344e-13
.ends por_output_chain
